US09388189B2
(S)-2-(1-((6-Amino-5-(3-hydroxybenzyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Amino-5-(3-methoxybenzyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (70 mg, 0.15 mmol) was treated with boron tribromide (1M in dichloromethane, 436 μl, 0.44 mmol) with dichloromethane as a solvent according to the method described in Example 23. The residue was purified by reverse phase using SP1® Purification System to give 37 mg (54% yield) as a solid. Purity 98%.

reactant | (S)-2-(1-((6-Amino-5-(3-methoxybenzyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.15 mmol, 70 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)CC2=CC(=CC=C2)OC | C27H27N7O2
reactant | boron tribromide | 0.44 mmol, 1M, 436 μl | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-2-(1-((6-Amino-5-(3-hydroxybenzyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 54% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)CC2=CC(=CC=C2)O | C26H25N7O2
